US05599814
d. Methyl 2-(tert-butoxycarbonylamino)-4,6-dichloro-5-methoxybenzoate
To a cold (ice bath) stirred solution of 2-(tert-butoxycarbonylamino)-4,6-dichloro-5-methoxybenzoic acid (2.0 g, 5.9 mM) in 20 mL of dry dimethylformamide under a nitrogen atmosphere was added sodium hydride (0.24 g, 5.9 mM); a precipitate formed which slowly redissolved on stirring. To the resulting stirred solution was added iodomethane (8.4 g, 59 mM). After stirring at room temperature for 1.5 hr, the reaction mixture was poured into water and the resulting mixture extracted with ether. The combined ether extracts were washed with brine, dried (MgSO4), filtered and concentrated to leave the title compound as a yellow oil (2.0 g, 96%); MS(CI): 350 (M+H).

reactant | 2-(tert-butoxycarbonylamino)-4,6-dichloro-5-methoxybenzoic acid | 5.9 mM, 2.0 g | C(C)(C)(C)OC(=O)NC1=C(C(=O)O)C(=C(C(=C1)Cl)OC)Cl | C13H15Cl2NO5
reactant | sodium hydride | 5.9 mM, 0.24 g | [H-].[Na+]
reactant | iodomethane | 59 mM, 8.4 g | IC | CH3I
reactant | water | O | H2O
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | Methyl 2-(tert-butoxycarbonylamino)-4,6-dichloro-5-methoxybenzoate | 2.0 g, 96% | C(C)(C)(C)OC(=O)NC1=C(C(=O)OC)C(=C(C(=C1)Cl)OC)Cl | C14H17Cl2NO5
